US04689333
To a solution of 2-[3-methyl-4-(2,2,3,3,3-pentafluoropropoxy)pyrid-2-yl]methylthiobenzimidazole (2.2 g) in chloroform (20 ml) was added dropwise under ice-cooling over a period of 30 minutes m-chloroperbenzoic acid (1.3 g) dissolved in chloroform (15 ml). The solution was washed with a saturated aqueous solution of sodium hydrogen carbonate, then dried on magnesium sulfate, and concentrated. The residue was chromatographed on a column of silica gel (50 g), eluted with ethyl acetate, and then recrystallized from acetone-isopropyl ether to give 1.78 g of 2-[3-methyl-4-(2,2,3,3,3-pentafluoropropoxy)pyrid-2-yl]methylsulfinylbenzimidazole as pale yellow prisms, m.p. 161°-163° C. (decomp.).

reactant | 2-[3-methyl-4-(2,2,3,3,3-pentafluoropropoxy)pyrid-2-yl]methylthiobenzimidazole | 2.2 g | CC=1C(=NC=CC1OCC(C(F)(F)F)(F)F)CSC=1NC2=C(N1)C=CC=C2 | C17H14F5N3OS
reactant | m-chloroperbenzoic acid | 1.3 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 15 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-[3-methyl-4-(2,2,3,3,3-pentafluoropropoxy)pyrid-2-yl]methylsulfinylbenzimidazole | 1.78 g | CC=1C(=NC=CC1OCC(C(F)(F)F)(F)F)CS(=O)C=1NC2=C(N1)C=CC=C2 | C17H14F5N3O2S
